US08211908B2
To 0.21 g of 4-(1,3-dioxolan-2-ylmethyl)-6-methoxypyrido(2,3-b)pyrazin-3(4H)-one, 10 mL of an 80% aqueous trifluoroacetic acid solution was added, and the mixture was stirred at room temperature for 5 hours and then left overnight. The solvent was distilled off under reduced pressure. The resultant residue was charged with ethyl acetate and water and adjusted to pH 7.0 with a 1 mol/L aqueous sodium hydroxide solution. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 0.18 g of (6-methoxy-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)acetaldehyde as a light brown foam.

reactant | 4-(1,3-dioxolan-2-ylmethyl)-6-methoxypyrido(2,3-b)pyrazin-3(4H)-one | 0.21 g | O1C(OCC1)CN1C2=C(N=CC1=O)C=CC(=N2)OC | C12H13N3O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (6-methoxy-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)acetaldehyde | 0.18 g | COC=1C=CC2=C(N(C(C=N2)=O)CC=O)N1 | C10H9N3O3
